US04906634
4-[3-[Ethyl(heptyl)amino]propoxy]benzenamine dihydrochloride
In a manner similar to Preparation 42 hydrogenate N-ethyl-N-heptyl-3-(4-nitrophenoxy)propanamine hydrochloride over 10% palladium on carbon in methanol to obtain the title compound.

reactant | N-ethyl-N-heptyl-3-(4-nitrophenoxy)propanamine hydrochloride | Cl.C(C)N(CCCOC1=CC=C(C=C1)[N+](=O)[O-])CCCCCCC
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-[3-[Ethyl(heptyl)amino]propoxy]benzenamine dihydrochloride | Cl.Cl.C(C)N(CCCOC1=CC=C(C=C1)N)CCCCCCC | InChI=1S/C18H32N2O.2ClH/c1-3-5-6-7-8-14-20(4-2)15-9-16-21-18-12-10-17(19)11-13-18;;/h10-13H,3-9,14-16,19H2,1-2H3;2*1H
